US04520379
Preparation of allyl-4,4-bis(4-hydroxyphenyl)pentanoate
A mixture of 85.8 grams of 4,4-bis-(4-hydroxyphenyl)pentanoic acid, 200 ml. of allyl alcohol and 2 ml. of concentrated sulfuric acid was heated to 50° C. and maintained at the temperature, with stirring, for 20 hours. The mixture was then poured into 1500 ml. of water, with stirring. The oily layer was allowed to settle and the aqueous layer was removed by decantation. The oily layer was washed with water two additional times. Finally, a 1500 ml. portion of water was added to the oil and the mixture was stirred until the viscous oil solidified. The solid was separated from the water, pulverized and stirred one hour with 1000 ml. of water containing 16.8 grams of sodium bicarbonate. The product was filtered and washed with water until the filtrate was neutral. Yield: 86.6 grams (88.5%) of off white solid, m.p. 83°-85° C.

reactant | 4,4-bis-(4-hydroxyphenyl)pentanoic acid | 85.8 grams | OC1=CC=C(C=C1)C(CCC(=O)O)(C)C1=CC=C(C=C1)O | C17H18O4
reactant | allyl alcohol | C(C=C)O | C3H6O
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | water | O | H2O
product | allyl-4,4-bis(4-hydroxyphenyl)pentanoate | C(C=C)OC(CCC(C)(C1=CC=C(C=C1)O)C1=CC=C(C=C1)O)=O | C20H22O4
